US07192982B2
(2S)-2-Methoxy-3-{4-[3-(4-oxo-2-phenyl-chroman-6-yloxy)-propoxy]-phenyl}-propionic acid
The title compound was prepared from (2S)-3-[4-(3-Hydroxy-propoxy)-phenyl]-2-methoxy-propionic acid linked to Wang's Resin (Example 94, Step D) via Mitsunobu coupling with 6-hydroxyflavanone and cleavage from the resin (Standard Procedure G) gave an oily solid.

reactant | (2S)-3-[4-(3-Hydroxy-propoxy)-phenyl]-2-methoxy-propionic acid | OCCCOC1=CC=C(C=C1)C[C@@H](C(=O)O)OC | C13H18O5
reactant | 6-hydroxyflavanone | OC=1C=C2C(CC(OC2=CC1)C1=CC=CC=C1)=O | C15H12O3
product | (2S)-2-Methoxy-3-{4-[3-(4-oxo-2-phenyl-chroman-6-yloxy)-propoxy]-phenyl}-propionic acid | CO[C@H](C(=O)O)CC1=CC=C(C=C1)OCCCOC=1C=C2C(CC(OC2=CC1)C1=CC=CC=C1)=O | C28H28O7
